US05589476
11.1.5. 2-Chloro-5,6-dihydro-4H-imidazo[1,5,4-de]quinoxaline
3 g (0.0155 mol) of 5,6-dihydro-4H-imidazo[1,5,4-de]quinoxalin-2(1H)-one in 60 ml of phosphoryl chloride are heated at the reflux temperature for 3 hours. The solvent is evaporated to dryness and the residue taken up successively in ice-cold water and in a concentrated aqueous ammonia solution. Extraction is then carried out twice with ether and the organic phases are combined, dried and evaporated to dryness. The residue is purified by chromatography on a column of silica gel, the eluent being ether. There are obtained 1.8 g of product in the oil form which is used as is in the following stage.

reactant | 5,6-dihydro-4H-imidazo[1,5,4-de]quinoxalin-2(1H)-one | 0.0155 mol, 3 g | N1C(N2CCNC=3C=CC=C1C23)=O | C9H9N3O
reactant | phosphoryl chloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-5,6-dihydro-4H-imidazo[1,5,4-de]quinoxaline | 1.8 g | ClC1=NC=2C=3N1CCNC3C=CC2 | C9H8ClN3
